US05773449
7-Nitroquinoline-4(1H)-thione (Compound 19)
4-Chloro-7-nitroquinoline (100 mg, 0.48 mmol) and thiourea (100 mg, 1.3 mmol) were added to ethanol (50 ml) and stirred at 80° C. for 30 minutes. After allowing to cool to room temperature, ethanol was removed under reduced pressure. The residue was chromatographed by silica gel column chromatography and eluted with mixed solution of methylene chloride with methanol (19 : 1) for collection of yellow bands. The solvent was removed to obtain 7 mg (7%) of the titled yellow compound.

reactant | 4-Chloro-7-nitroquinoline | 0.48 mmol, 100 mg | ClC1=CC=NC2=CC(=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | thiourea | 1.3 mmol, 100 mg | NC(=S)N | CH4N2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-Nitroquinoline-4(1H)-thione | [N+](=O)([O-])C1=CC=C2C(C=CNC2=C1)=S | C9H6N2O2S
